US08975256B2
7-(5-Chloro-2-methoxyphenyl)-8-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 13-1)
A mixture of 7-(5-chloro-2-hydroxyphenyl)-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 12-1, 1.36 g, 3.92 mmol), methyl iodide (244 μL, 3.92 mmol), and potassium carbonate (1.08 g, 7.81 mmol) was suspended in anhydrous N,N-dimethylformamide (20 mL) and stirred at 50° C. for 1 hour. After cooling down, ethyl acetate (70 mL), diethylether (70 mL), and water (150 mL) were added and partitioned. The organic layer was washed with water (100 mL) and saturated brine (50 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (1.36 g) as a pale yellow amorphous product. (Yield 96%)

reactant | 7-(5-chloro-2-hydroxyphenyl)-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 3.92 mmol, 1.36 g | ClC=1C=CC(=C(C1)C1=CC=C2N(C(C(N(C2=C1)C)=O)(C)C)CO)O | C18H19ClN2O3
reactant | methyl iodide | 3.92 mmol, 244 μL | CI | CH3I
reactant | potassium carbonate | 7.81 mmol, 1.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 150 mL | O | H2O
solvent | diethylether | 70 mL | C(C)OCC | C4H10O
product | 7-(5-Chloro-2-methoxyphenyl)-8-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 1.36 g, Yield 96% | ClC=1C=CC(=C(C1)C1=CC=C2NC(C(N(C2=C1CO)C)=O)(C)C)OC | C19H21ClN2O3
